US05731306
Step e: 2-(1,3-Dioxo-1,3-dihydro-isoindol-2-yl)-3-(2-vinyl-phenyl)-propionic acid
Dissolve 2-amino-3-(2-vinyl-phenyl)-propionic acid (3.40 g) in water (75 mL) and add sodium carbonate (1.97 g, 18.6 mmol) and N-carbethoxyphthalimide (2.81 g, 12.8 mmol). Stir for 2.5 hours, wash with methylene chloride (200 mL), acidify to pH 1 with cold concentrated hydrochloric acid and extract with ethyl acetate (3×200 mL), dry (Na2SO4), evaporate the solvent in vacuo and purify by silica gel chromatography (1:1:2% hexane/ethyl acetate/acetic acid) followed by recrystallization (isopropranol) to give the title compound as a pale yellow solid (2.47 g).

reactant | 2-amino-3-(2-vinyl-phenyl)-propionic acid | 3.40 g | NC(C(=O)O)CC1=C(C=CC=C1)C=C | C11H13NO2
reactant | sodium carbonate | 18.6 mmol, 1.97 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | N-carbethoxyphthalimide | 12.8 mmol, 2.81 g | C(=O)(OCC)N1C(C=2C(C1=O)=CC=CC2)=O | C11H9NO4
solvent | water | 75 mL | O | H2O
product | 2-(1,3-Dioxo-1,3-dihydro-isoindol-2-yl)-3-(2-vinyl-phenyl)-propionic acid | 2.47 g | O=C1N(C(C2=CC=CC=C12)=O)C(C(=O)O)CC1=C(C=CC=C1)C=C | C19H15NO4
